US06313308B1
2-Bromobenzenesulfonic acid, 1-methylethyl ester
2-Bromobenzenesulfonyl chloride (50 g, 0.19 mol) was suspended in 2-propanol (45 mL, 3 equiv.) and the slurry was cooled to less than 10° C. Pyridine (32 mL, 2 equiv.) was added in portions while maintaining the reaction temperature below 10° C. After reaction completion (ca. 3 hours), 11 mL of glacial acetic acid followed by 250 mL of methyl tert-butyl ether (MTBE) were added. The layers were separated and the rich organic layer was successively washed with 125 mL of iN aqueous hydrochloric acid and 150 mL of saturated sodium bicarbonate solutions. The rich MTBE solution was solvent exchanged into hexane (i.e., the addition of hexane with concurrent distillation of MTBE) to induce crystallization. The crystal slurry was filtered, washed and dried in vacuo at no more than 25° C., to give 48 g (87 M %, HPLC area % >99) of the title compound.

reactant | 2-Bromobenzenesulfonyl chloride | 0.19 mol, 50 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 2-propanol | 45 mL, 3 equiv. | CC(C)O | C3H8O
reactant | Pyridine | 32 mL, 2 equiv. | N1=CC=CC=C1 | C5H5N
reactant | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
solvent | methyl tert-butyl ether | 250 mL | C(C)(C)(C)OC | C5H12O
product | 2-Bromobenzenesulfonic acid, 1-methylethyl ester | BrC1=C(C=CC=C1)S(=O)(=O)OC(C)C | C9H11BrO3S
